US05648347
To concentrated H2SO4 (100 ml) was added a solution of (1R,2S)-1-(3,4-difluorophenyl)-2-[[(1R)-2-hydroxy-1-methylethyl]amino]propanol (17.1 g, 0.07 mole) in dichloromethane (100 ml). The reaction was worked up as in Example 1 to yield the crude reaction product as the free base. The crude product was dissolved in diethyl ether and treated with ethereal hydrogen chloride. The hydrochloride salt was recrystallized from ethanol-diethyl ether mixtures to give 9.2 g (49.8% of theory) of (2S,3S,5R)-2-(3,4-difluorophenyl)-3,5-dimethylmorpholine hydrochloride as a white solid. m.p. 318° C. [α]20D =+24.6° (c=0.710, 95% ethanol).

reactant | H2SO4 | 100 ml | OS(=O)(=O)O | H2O4S
reactant | (1R,2S)-1-(3,4-difluorophenyl)-2-[[(1R)-2-hydroxy-1-methylethyl]amino]propanol | 0.07 mole, 17.1 g | FC=1C=C(C=CC1F)[C@H]([C@H](C)N[C@@H](CO)C)O | C12H17F2NO2
reactant | hydrogen chloride | Cl | ClH
solvent | dichloromethane | 100 ml | ClCCl | CH2Cl2
solvent | diethyl ether | C(C)OCC | C4H10O
product | (2S,3S,5R)-2-(3,4-difluorophenyl)-3,5-dimethylmorpholine hydrochloride | 9.2 g, 49.8% | Cl.FC=1C=C(C=CC1F)[C@H]1[C@@H](N[C@@H](CO1)C)C | InChI=1S/C12H15F2NO.ClH/c1-7-6-16-12(8(2)15-7)9-3-4-10(13)11(14)5-9;/h3-5,7-8,12,15H,6H2,1-2H3;1H/t7-,8+,12-;/m1./s1
